Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Corgard / ___
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS:
===============
___ 12:48AM BLOOD WBC-10.3* RBC-3.71* Hgb-10.6* Hct-36.6* 
MCV-99* MCH-28.6 MCHC-29.0* RDW-18.6* RDWSD-55.8* Plt ___
___ 12:48AM BLOOD ___ PTT-82.4* ___
___ 12:48AM BLOOD Glucose-128* UreaN-47* Creat-2.2* Na-144 
K-3.8 Cl-105 HCO3-22 AnGap-17
___ 12:48AM BLOOD ALT-75* AST-55* AlkPhos-150* TotBili-1.1
___ 12:48AM BLOOD ___
___ 12:48AM BLOOD Calcium-9.2 Phos-4.0 Mg-2.3
___ 01:19AM BLOOD ___ pO2-59* pCO2-42 pH-7.34* 
calTCO2-24 Base XS--2

RELEVANT LABS:
==============
___ 12:48AM BLOOD ___

IMAGING:
========
CXR: ___
No comparison.  The lung volumes are low.  Moderate cardiomegaly 
is present.  Normal alignment of the sternal wires after CABG.  
Mild bilateral pleural effusions.  Signs of moderate pulmonary 
edema.  Retrocardiac atelectasis, no evidence of pneumonia. 

CXR: ___
There are stable postsurgical changes following wedge resection 
the right 
lower lobe.  Small bilateral effusions right greater than left 
are unchanged. Cardiomediastinal silhouette is stable.  There is 
moderate cardiomegaly.  No pneumothorax.  Mild pulmonary edema 
is unchanged. 

DISCARHGE LABS:
===================
___ 08:00AM BLOOD WBC-5.4 RBC-3.54* Hgb-10.3* Hct-34.1* 
MCV-96 MCH-29.1 MCHC-30.2* RDW-19.0* RDWSD-65.7* Plt ___
___ 08:00AM BLOOD Glucose-94 UreaN-44* Creat-2.0* Na-140 
K-3.6 Cl-99 HCO3-27 AnGap-14
___ 08:00AM BLOOD ALT-38 AST-46* LD(LDH)-198 AlkPhos-108 
TotBili-0.5
___ 08:00AM BLOOD Calcium-9.0 Phos-3.5 Mg-2.3
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
====================
[] Consider discontinuing amiodarone given persistence of AF 
despite this medication
[] Consider starting beta blocker, if BP is able to tolerate. 
Patient previously did not tolerate this medication while on 
pembrolizumab (dizziness and ___, but patient has been off of 
pembrolizumab since ___
[] Consider starting spironolactone and ___ pending blood 
pressures; trialed losartan and spironolactone during this 
admission, but ultimately held due to hypotension. 
[] His LFTs should be rechecked ~2 weeks after discharge 
(___). He has a history of transaminitis attributed in part 
to statin use in the past; he was restarted on rosuvastatin this 
admission (given history of CAD s/p CABG), and LFTs on day of 
admission were ALT 38, AST 46, Alk phos 108, Tbili 0.5.
[] Follow up with Oncology regarding melanoma.
[] Monitor for resolution of supplemental O2 requirement after 
discharge. He was requiring ___ of O2 by NC at time of 
discharge, in the setting of recovering from pneumonia.

DISCHARGE WT: 116.18 lbs
DISCHARTE Cr: 2.0
DISCHARGE DIURETIC: torsemide 60 mg PO BID

SUMMARY:
===============
Mr. ___ is a ___ man with PMH of HFrEF (35% 
___,
CAD s/p 3v CABG (___) and subsequent PCI to the LAD (___),
moderate tricuspid regurgitation, right ventricular dysfunction,
moderate pulmonary hypertension, and paroxysmal atrial 
fibrillation on apixaban, stage III chronic kidney disease 
(Baseline Cr 2.0-2.1), cerebrovascular disease, and metastatic 
melanoma of unknown primary on Pembrolizumab (on hold since 
___ iso worsening transaminitis and concern for 
cardiotoxicity). He was admitted with volume overload from heart 
failure exacerbation and pneumonia with high oxygen 
requirements. He initially required CCU admission for high flow 
oxygen, weaned to nasal cannula after aggressive IV diuresis and 
treatment of pneumonia with 5 day course of Zosyn after 
receiving vancomycin at OSH. He was transferred to cardiology 
floor where he continued to diurese well and his oxygen 
requirement was weaned to ___. He was transitioned to 60 mg 
torsemide PO BID which adequately maintained euvolemia. 

ACUTE ISSUES: 
============= 
# Acute on chronic systolic heart failure exacerbation
Patient with history of heart failure with etiology likely 
ischemic cardiomyopathy given history of CAD s/p CABG and PCI. 
Admitted with fluid overload and pleural effusion. Trigger for 
current exacerbation could be infectious given evidence of 
pneumonia in left lower lobe on admission. Patient with high 
oxygen requirements prior to admission but responded 
appropriately to diuresis with Lasix. After IV diuresis, patient 
was transitioned PO torsemide and maintained at euvolemia. With 
effective diuresis, the patient's oxygen requirement gradually 
lowered from 4L NC to ___ NC. He was discharged on torsemide 60 
mg PO BID. He was unable to tolerate afterload reducing agents 
or neurohormonal blockade agents due to hypotension. 

# Lower left lobe pneumonia
Patient with evidence of pneumonia in the left lower lobe, 
received vanc/zosyn at outside hospital and continued on Zosyn 
here for a total of 5 day course with resolution of symptoms. We 
suspect that his lingering O2 requirement is at least in part 
due to slowly resorbing consolidation left over from his 
infection. He was requiring ___ of supplemental O2 by NC at 
time of discharge.

# Pleural effusion, bilateral
Patient with evidence of right pleural effusion. Etiology likely 
fluid overload given heart failure with reduced ejection 
fraction. Pleural effusion resolved improved with diuresis and 
his oxygen requirement trended down to ___ NC. Given this, 
thoracentesis was deferred. 

# Atrial fibrillation
Patient with chronic history of atrial fibrillation. In afib 
throughout this admission. Continued amiodarone and apixaban. 
Rates appropriately controlled.

CHRONIC ISSUES
================
# Coronary artery disease s/p CABG
Patient with history of 3 vessel CABG on ___ (___) and
subsequent PCI to LAD (___). Continued home aspirin. Patient 
was started on low dose rosuvastatin 5 mg daily. On review, it 
appears he had been on this medication at this dose in the past 
but it was discontinued due to transamnitis; however, at the 
time it was unclear whether this was an effect of the statin or 
pembrolizumab. Given that the patient has not had his checkpoint 
inhibitor therapy since ___, the decision was to restart 
rosuvastatin. 

# Chronic kidney disease
Baseline Cr appears to be 2.1-2.2 over past year. Cr remained 
between 1.8-2.4 throughout admission. 

# Anemia
Chronic, although worsening since ___. On admission 
hemoglobin
10.6 and remained stable. 

# Thrombocytopenia
Uncertain etiology, appears subacute/chronic. On admission
platelets 130 down-trended to 100s. No concern for bleeding 
throughout admission. 

# Melanoma
Patient with history of metastatic melanoma with unknown 
primary.
On treatment with pembrolizumab, but held since ___ iso
toxicity. 

CODE: DNR/DNI
CONTACT: ___ (___)
Relationship: Son 
Phone number: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Amiodarone 200 mg PO DAILY 
2. Apixaban 2.5 mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Ferrous Sulfate 325 mg PO DAILY 
6. Senna 17.2 mg PO HS 
7. Sertraline 50 mg PO DAILY 
8. Tamsulosin 0.4 mg PO QHS 
9. Torsemide 40 mg PO DAILY 
10. coenzyme Q10 100 mg oral DAILY 
11. Align (bifidobacterium infantis) 4 mg oral DAILY 
12. Potassium Chloride 40 mEq PO DAILY 

 
Discharge Medications:
1.  Rosuvastatin Calcium 5 mg PO QPM  
2.  Vitamin D 1000 UNIT PO DAILY  
3.  Torsemide 60 mg PO BID  
4.  Align (bifidobacterium infantis) 4 mg oral DAILY  
5.  Amiodarone 200 mg PO DAILY  
6.  Apixaban 2.5 mg PO BID  
7.  Aspirin 81 mg PO DAILY  
8.  coenzyme Q10 100 mg oral DAILY  
9.  Docusate Sodium 100 mg PO BID  
10.  Ferrous Sulfate 325 mg PO DAILY  
11.  Potassium Chloride 40 mEq PO DAILY  
12.  Senna 17.2 mg PO HS  
13.  Sertraline 50 mg PO DAILY  
14.  Tamsulosin 0.4 mg PO QHS  

___ and mineralocorticoid receptor antagonist held in the 
setting of hypotension and CKD. Patient is intolerant of beta 
blockers due to dizziness/hypotension previously.
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
=====================
Acute on chronic systolic heart failure exacerbation
Lower left lobe pneumonia
Bilateral pleural effusion
Atrial fibrillation

Secondary diagnosis:
=====================
Coronary artery disease status post CABG
Chronic kidney disease
Anemia
Thrombocytopenia
Metastatic melanoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___. 

WHY WAS I IN THE HOSPITAL?  
==========================   
- You were admitted because of you were short of breath 

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You were found to have fluid on your lungs. This was because 
you have a medical condition called heart failure, where your 
heart does not pump hard enough and fluid backs up into your 
lungs. 
- You were given a diuretic medication to help get the fluid 
out. You improved considerably and are ready to leave the 
hospital.  

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 
- Your weight at discharge is 116.18 lbs. Please weigh yourself 
today at home and use this as your new baseline  
- Please weigh yourself every day in the morning. Call your 
doctor or the HeartLine at ___ if your weight goes up 
by more than 3 lbs or you experience significant chest pain and 
shortness of breath.  

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,
Your ___ Team  
 
Followup Instructions:
___